US06498125B2
9.6 g (0.047 mol) of methyl 4-trifluoromethylpyridin-3-ylcarboxylate, dissolved in 50 ml of dichloromethane, are treated with 30% hydrogen peroxide/urea adduct and 17 ml of trifluoroacetic anhydride. The reaction solution is stirred at temperature of 20° C. for 20 hours and then washed once each with dilute sodium hydroxide solution and half-saturated sodium chloride solution. The product obtained is 3-methoxycarbonyl4-trifluoromethyl-3-pyridine N-oxide; 1H NMR (CDCl3, ppm): 8.55, s, 1H; 8.31, d, 1H; 7.6, d, 1H; 3.98, s, 3H. 4.85 g (0.022 mol) of the above product are then added to a mixture of 5 ml of phosphorus oxychloride and 4.3 ml of ethyidiisopropylamine in 15 ml of 1,2dichloroethane, and the mixture is heated to a temperature of 60° C. After about 2 hours, another 2 ml of phosphorus oxychloride and 2.8 ml of ethyidiisopropylamine are added, and the mixture is stirred at this temperature for 20 hours. The reaction mixture is subsequently added to ice-water, adjusted to pH 3 using 30% NaOH and then extracted with dich ioromethane. Filtration through a little silica gel gives an approximately 5:1 product mixture of the two 6-chloro- and 2-chloro-4-trifluoromethylpyridin-3-yl methyl esters, which can be separated by HPLC into the pure components. Thus, pure methyl 6-chloro-4-trifluoromethylpyridin-3-ylcarboxylate is obtained as the main product; 1H NMR (CDCl3, ppm): 8.91, s, 1H; 7.68, s, 1H; 3.98, s, 3H, and pure methyl 2-chloro-4-trifluoromethylpyridin-3-ylcarboxylate is obtained as the byproduct; 1H NMR (CDCl3, ppm): 8.64, d, 1H; 7.52, d, 1H; 4.01, s, 3H. In the presence of 0.073 g of potassium hydroxide, 0.22 g of pure methyl 6-chloro-4-trifluoromethylpyridin-3-ylcarboxylate are hydrolysed at room temperature in a 1:1 mixture of 6 ml of dioxane/water. Recrystallization gives the pure 6-chloro-4-trifluoromethyinicotinic acid: m.p. 115-117° C.; 1H NMR (CDCl3, ppm): 9.12, s, 1H; 7.24, s, 1H.

reactant | potassium hydroxide | 0.073 g | [OH-].[K+]
reactant | methyl 6-chloro-4-trifluoromethylpyridin-3-ylcarboxylate | 0.22 g | ClC1=CC(=C(C=N1)C(=O)OC)C(F)(F)F | C8H5ClF3NO2
solvent | dioxane water | 6 ml | O1CCOCC1.O
product | 6-chloro-4-trifluoromethyinicotinic acid | ClC1=NC=C(C(=O)O)C(=C1)C(F)(F)F | C7H3ClF3NO2
